US08426447B2
A solution of 1-(3,3-dimethylbutoxy)-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one (0.320 g, 0.852 mmol) in THF (8.00 mL) was cooled to 0° C. and methylmagnesium bromide (3.0 M in diethyl ether) (0.483 mL, 1.449 mmol) was added dropwise. The mixture stirred at 0° C. for 1 h. The mixture was quenched at 0° C. with saturated aqueous ammonium chloride solution and diluted with EtOAc. The aqueous phase was separated and extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow film. This material was dissolved in chloroform (8.00 mL), pyridinium p-toluenesulfonate (10.71 mg, 0.043 mmol) was added, and the mixture was heated at reflux for 2 h. The reaction mixture was diluted with DCM and the solution was partitioned between DCM and saturated aqueous sodium bicarbonate solution. The aqueous phase was separated and extracted with DCM. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 1-(3,3-dimethylbutoxy)-10-methylene-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridine as a yellow solid. MS m/z=374.2 [M+H]+. Calcd for C23H23N3O2: 373.4.

reactant | 1-(3,3-dimethylbutoxy)-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one | 0.852 mmol, 0.320 g | CC(CCOC1=NC=CC2=C1C(C=1C=C(C=CC1O2)C=2C=NC=NC2)=O)(C)C | C22H21N3O3
reactant | methylmagnesium bromide | 1.449 mmol, 3.0 M, 0.483 mL | C[Mg]Br
reactant | pyridinium p-toluenesulfonate | 0.043 mmol, 10.71 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | 8.00 mL | C1CCOC1 | C4H8O
solvent | chloroform | 8.00 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(3,3-dimethylbutoxy)-10-methylene-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridine | CC(CCOC1=NC=CC2=C1C(C=1C=C(C=CC1O2)C=2C=NC=NC2)=C)(C)C | C23H23N3O2
